US05696117
3,4-Dihydro-2-(2-hydroxyethyl)-3-oxo-4-(2-picolyl)-2H-1,4-benzoxazine
2-(2-tert-Butyldimethylsiloxyethyl)-3,4-dihydro-3-oxo-2H-1,4-benzoxazine was alkylated with 2-chloromethylpyridine by method F and the crude product was deprotected by method H without purification.

reactant | 2-(2-tert-Butyldimethylsiloxyethyl)-3,4-dihydro-3-oxo-2H-1,4-benzoxazine | O([Si](C)(C)C(C)(C)C)CCC1OC2=C(NC1=O)C=CC=C2 | C16H25NO3Si
reactant | 2-chloromethylpyridine | ClCC1=NC=CC=C1 | C6H6ClN
product | 3,4-Dihydro-2-(2-hydroxyethyl)-3-oxo-4-(2-picolyl)-2H-1,4-benzoxazine | OCCC1OC2=C(N(C1=O)CC1=NC=CC=C1)C=CC=C2 | C16H16N2O3
